datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:21]=[C:20]2[O]C([H])C([H])[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[O]C([H])C([H])[S]1 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C([O-:21])CCCCCC)CCCCCC)C1=CC=CC=C1>>[H]N([C:20]1(OC(C([O:21]1)CCCCCC)CCCCCC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"CCN([C:20]([O-:10])(OCCCCCC)[O:21]C1=CC=CC=C1)C>>CCN([C:20](=[O:10])OCCCCCC)C.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][O:10]C(C)C([H])C([H])[O][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C([H])[O]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"[H][NH+:10](C(CC)C(CC)[NH]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(CC)[NH][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH][H])[NH][H].[Cl-]>>[Cl-].C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH][H])[NH][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C([H])[NH]2.[H][O:10][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C([H])[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[OH:10]C(CC)C(O)C([C:20](OCC)=[OH+:21])C>>[OH:21][C:20]1(OCC)[OH+:10]C(CC)C(O)C1C 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[H][O:10]C([H])C(C8=CC=CC=C8)[O][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])[H].[O-:21][H]>>[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])[H])[H] 21=20;20,10=10"
"[OH:21][C:20]1([H])C([H])=C([H])C([H])C(CCC)[OH+:10]1>>[OH:10]C(CCC)C([H])/C([H])=C([H])\[C:20]([H])=[OH+:21] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C)C(CC)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C)C(CC)[NH]1 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)C)[O-:10])C1=CC=CC=C1>>CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)C)C1=CC=CC=C1 10=20;20,21=21"
"[H][NH+:10](C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C8=CC=CC=C8)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])[H])[H])[H])[H]>>CN([C:20]1(OC(C(C([O:21]1)[H])[H])[H])[O-:10])[H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C([H])[CH](C)[O]1 10=20;20,21=21"
"[H][O+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[NH][H].[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([NH][H])=[NH+:21]C 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(O)C([H])C([H])C(C)[O+:10]1([Na])>>[O:10]([Na])C(C)C([H])C([H])C(O)[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C([H])C([H])[O]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C([H])[O][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[O]2.[H][NH:10][H] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.CC[S:10][H] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])C)[H])[H]>>[H]N([C:20]1(OC(C(C([O:21]1)[H])C)[H])[O-:10])[H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C([H])=C(C)C(C)C(C)[O+:10]1([Na])>>[O:10]([Na])C(C)C(C)/C(C)=C([H])\[C:20](OC)=[O:21] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
